** sch_path: /home/cmaier/EDA/PUDDING/xschem/test_dac32_dc.sch
**.subckt test_dac32_dc
Vout Vout GND {vout}
.save i(vout)
Vprobe net1 GND 0
.save i(vprobe)
G1 iin net1 CUR=' 10**V(logI) '
VlogI logI GND {logI}
.save i(vlogi)
VDDA VDD GND {vdd}
.save i(vdda)
VSW switch GND DC {vdd} PULSE(0 {vdd} {td} {tr} {tf} {ton} {tcyc})
.save i(vsw)
Vidacp VDD dac_p 0
.save i(vidacp)
Vidacn dac_n GND 0
.save i(vidacn)
Vpleak[1] pbuf Vpbias[1] 0
Vpleak[0] pbuf Vpbias[0] 0
.save i(vpleak[1:0])
xdac dac_p en[3] en[2] en[1] en[0] enb[3] enb[2] enb[1] enb[0] on[31] on[30] on[29] on[28] on[27] on[26] on[25] on[24] on[23]
+ on[22] on[21] on[20] on[19] on[18] on[17] on[16] on[15] on[14] on[13] on[12] on[11] on[10] on[9] on[8] on[7] on[6] on[5] on[4] on[3]
+ on[2] on[1] on[0] onb[31] onb[30] onb[29] onb[28] onb[27] onb[26] onb[25] onb[24] onb[23] onb[22] onb[21] onb[20] onb[19] onb[18]
+ onb[17] onb[16] onb[15] onb[14] onb[13] onb[12] onb[11] onb[10] onb[9] onb[8] onb[7] onb[6] onb[5] onb[4] onb[3] onb[2] onb[1] onb[0]
+ Vout Vpbias[1] Vpbias[0] Vpcbias[1] Vpcbias[0] dac_n dac32module
xbypass VDD pbuf iin analog_wires
Vpcleak1[1] iin Vpcbias[1] 0
Vpcleak1[0] iin Vpcbias[0] 0
.save i(vpcleak1[1:0])
xen[3] VDD en[3] enable enb[3] GND inverterpair
xen[2] VDD en[2] enable enb[2] GND inverterpair
xen[1] VDD en[1] enable enb[1] GND inverterpair
xen[0] VDD en[0] enable enb[0] GND inverterpair
xdrv[31] VDD on[31] switch onb[31] GND inverterpair
xdrv[30] VDD on[30] switch onb[30] GND inverterpair
xdrv[29] VDD on[29] switch onb[29] GND inverterpair
xdrv[28] VDD on[28] switch onb[28] GND inverterpair
xdrv[27] VDD on[27] switch onb[27] GND inverterpair
xdrv[26] VDD on[26] switch onb[26] GND inverterpair
xdrv[25] VDD on[25] switch onb[25] GND inverterpair
xdrv[24] VDD on[24] switch onb[24] GND inverterpair
xdrv[23] VDD on[23] switch onb[23] GND inverterpair
xdrv[22] VDD on[22] switch onb[22] GND inverterpair
xdrv[21] VDD on[21] switch onb[21] GND inverterpair
xdrv[20] VDD on[20] switch onb[20] GND inverterpair
xdrv[19] VDD on[19] switch onb[19] GND inverterpair
xdrv[18] VDD on[18] switch onb[18] GND inverterpair
xdrv[17] VDD on[17] switch onb[17] GND inverterpair
xdrv[16] VDD on[16] switch onb[16] GND inverterpair
xdrv[15] VDD on[15] switch onb[15] GND inverterpair
xdrv[14] VDD on[14] switch onb[14] GND inverterpair
xdrv[13] VDD on[13] switch onb[13] GND inverterpair
xdrv[12] VDD on[12] switch onb[12] GND inverterpair
xdrv[11] VDD on[11] switch onb[11] GND inverterpair
xdrv[10] VDD on[10] switch onb[10] GND inverterpair
xdrv[9] VDD on[9] switch onb[9] GND inverterpair
xdrv[8] VDD on[8] switch onb[8] GND inverterpair
xdrv[7] VDD on[7] switch onb[7] GND inverterpair
xdrv[6] VDD on[6] switch onb[6] GND inverterpair
xdrv[5] VDD on[5] switch onb[5] GND inverterpair
xdrv[4] VDD on[4] switch onb[4] GND inverterpair
xdrv[3] VDD on[3] switch onb[3] GND inverterpair
xdrv[2] VDD on[2] switch onb[2] GND inverterpair
xdrv[1] VDD on[1] switch onb[1] GND inverterpair
xdrv[0] VDD on[0] switch onb[0] GND inverterpair
VEN enable GND DC {vdd} PULSE({vdd} {vdd} {td} {tr} {tf} {ton} {tcyc})
.save i(ven)
**** begin user architecture code


.include test_dac32_dc.save
.temp=27
.options gmin=1e-15 abstol=1p method=gear
.options savecurrents
.control
save all
op
write test_dac32_dc.raw
set appendwrite
dc Vout 0 1.2 10m VlogI -8 -6 0.5
*tran 10n 500u
write test_dac32_dc.raw
plot title "output/reference current asymmetry" 2*(vout#branch-8*vprobe#branch)/(8*vprobe#branch+vout#branch)
plot ylimit -40m 5m title "output/reference current asymmetry" 2*(vout#branch-8*vprobe#branch)/(8*vprobe#branch+vout#branch)
plot vdd pbuf iin enable switch v("en[0]") v("enb[0]") v("on[0]") v("onb[0]") Vout
plot vout#branch vprobe#branch
*plot @n.xsw.xmbias.nsg13_lv_pmos[ids] @n.xsw.xmpullup.nsg13_lv_pmos[ids]
plot vidacp#branch vidacn#branch
*plot 0.5*(vidacp#branch+vidacn#branch) vidacp#branch-vidacn#branch
.endc




.include sg13g2_stdcell.spice
.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt


* device parameters
.param l      = 5u
.param w      = 1.45u
.param lc     = 0.6u
.param wc     = 1.2u
.param lb     = 0.15u
.param wb     = 5.85u
.param lplogic= 0.13u
.param wplogic= 0.5u
.param lnlogic= 0.13u
.param wnlogic= 0.15u
* instrumentation parameters
.param logI=-7
.param vdd=1.2
.param vout=0.6
* simulation parameters
.param celsius = 25
.param td     = 25u
.param tr     = 10p
.param tf     = 10p
.param ton    = 50u
.param tcyc   = 100u


**** end user architecture code
**.ends

* expanding   symbol:  dac32module.sym # of pins=9
** sym_path: /home/cmaier/EDA/PUDDING/xschem/dac32module.sym
** sch_path: /home/cmaier/EDA/PUDDING/xschem/dac32module.sch
.subckt dac32module VDD EN[3] EN[2] EN[1] EN[0] ENB[3] ENB[2] ENB[1] ENB[0] ON[31] ON[30] ON[29] ON[28] ON[27] ON[26] ON[25]
+ ON[24] ON[23] ON[22] ON[21] ON[20] ON[19] ON[18] ON[17] ON[16] ON[15] ON[14] ON[13] ON[12] ON[11] ON[10] ON[9] ON[8] ON[7] ON[6] ON[5]
+ ON[4] ON[3] ON[2] ON[1] ON[0] ONB[31] ONB[30] ONB[29] ONB[28] ONB[27] ONB[26] ONB[25] ONB[24] ONB[23] ONB[22] ONB[21] ONB[20] ONB[19]
+ ONB[18] ONB[17] ONB[16] ONB[15] ONB[14] ONB[13] ONB[12] ONB[11] ONB[10] ONB[9] ONB[8] ONB[7] ONB[6] ONB[5] ONB[4] ONB[3] ONB[2] ONB[1]
+ ONB[0] Iout Vpbias[1] Vpbias[0] Vpcbias[1] Vpcbias[0] VSS
*.opin Iout
*.ipin
*+ ON[31],ON[30],ON[29],ON[28],ON[27],ON[26],ON[25],ON[24],ON[23],ON[22],ON[21],ON[20],ON[19],ON[18],ON[17],ON[16],ON[15],ON[14],ON[13],ON[12],ON[11],ON[10],ON[9],ON[8],ON[7],ON[6],ON[5],ON[4],ON[3],ON[2],ON[1],ON[0]
*.ipin
*+ ONB[31],ONB[30],ONB[29],ONB[28],ONB[27],ONB[26],ONB[25],ONB[24],ONB[23],ONB[22],ONB[21],ONB[20],ONB[19],ONB[18],ONB[17],ONB[16],ONB[15],ONB[14],ONB[13],ONB[12],ONB[11],ONB[10],ONB[9],ONB[8],ONB[7],ONB[6],ONB[5],ONB[4],ONB[3],ONB[2],ONB[1],ONB[0]
*.iopin VSS
*.iopin VDD
*.iopin Vpcbias[1],Vpcbias[0]
*.ipin EN[3],EN[2],EN[1],EN[0]
*.ipin ENB[3],ENB[2],ENB[1],ENB[0]
*.iopin Vpbias[1],Vpbias[0]
XMcbias[0] Vpcbias[0] Vpcbias[0] Vpbias[0] VDD sg13_lv_pmos w=5.85u l=0.15u ng=1 m=2
**** begin user architecture code

* device parameters
.param l      = 5u
.param w      = 1.45u
.param lc     = 0.6u
.param wc     = 1.2u
.param lb     = 0.15u
.param wb     = 5.85u
.param lplogic= 0.13u
.param wplogic= 0.5u
.param lnlogic= 0.13u
.param wnlogic= 0.15u


**** end user architecture code
xref[1] VDD Vpbias[0] EN[1] ENB[1] Vpbias[0] Vpcbias[0] VSS unitsource2u
xref[0] VDD Vpbias[0] EN[0] ENB[0] Vpbias[0] Vpcbias[0] VSS unitsource2u
xsrc[15] VDD Vpbias[0] ON[15] ONB[15] Iout Vpcbias[0] VSS unitsource2u
xsrc[14] VDD Vpbias[0] ON[14] ONB[14] Iout Vpcbias[0] VSS unitsource2u
xsrc[13] VDD Vpbias[0] ON[13] ONB[13] Iout Vpcbias[0] VSS unitsource2u
xsrc[12] VDD Vpbias[0] ON[12] ONB[12] Iout Vpcbias[0] VSS unitsource2u
xsrc[11] VDD Vpbias[0] ON[11] ONB[11] Iout Vpcbias[0] VSS unitsource2u
xsrc[10] VDD Vpbias[0] ON[10] ONB[10] Iout Vpcbias[0] VSS unitsource2u
xsrc[9] VDD Vpbias[0] ON[9] ONB[9] Iout Vpcbias[0] VSS unitsource2u
xsrc[8] VDD Vpbias[0] ON[8] ONB[8] Iout Vpcbias[0] VSS unitsource2u
xsrc[7] VDD Vpbias[0] ON[7] ONB[7] Iout Vpcbias[0] VSS unitsource2u
xsrc[6] VDD Vpbias[0] ON[6] ONB[6] Iout Vpcbias[0] VSS unitsource2u
xsrc[5] VDD Vpbias[0] ON[5] ONB[5] Iout Vpcbias[0] VSS unitsource2u
xsrc[4] VDD Vpbias[0] ON[4] ONB[4] Iout Vpcbias[0] VSS unitsource2u
xsrc[3] VDD Vpbias[0] ON[3] ONB[3] Iout Vpcbias[0] VSS unitsource2u
xsrc[2] VDD Vpbias[0] ON[2] ONB[2] Iout Vpcbias[0] VSS unitsource2u
xsrc[1] VDD Vpbias[0] ON[1] ONB[1] Iout Vpcbias[0] VSS unitsource2u
xsrc[0] VDD Vpbias[0] ON[0] ONB[0] Iout Vpcbias[0] VSS unitsource2u
XMcbias[1] Vpcbias[1] Vpcbias[1] Vpbias[1] VDD sg13_lv_pmos w=5.85u l=0.15u ng=1 m=2
xref1[3] VDD Vpbias[1] EN[3] ENB[3] Vpbias[1] Vpcbias[1] VSS unitsource2u
xref1[2] VDD Vpbias[1] EN[2] ENB[2] Vpbias[1] Vpcbias[1] VSS unitsource2u
xsrc1[31] VDD Vpbias[1] ON[31] ONB[31] Iout Vpcbias[1] VSS unitsource2u
xsrc1[30] VDD Vpbias[1] ON[30] ONB[30] Iout Vpcbias[1] VSS unitsource2u
xsrc1[29] VDD Vpbias[1] ON[29] ONB[29] Iout Vpcbias[1] VSS unitsource2u
xsrc1[28] VDD Vpbias[1] ON[28] ONB[28] Iout Vpcbias[1] VSS unitsource2u
xsrc1[27] VDD Vpbias[1] ON[27] ONB[27] Iout Vpcbias[1] VSS unitsource2u
xsrc1[26] VDD Vpbias[1] ON[26] ONB[26] Iout Vpcbias[1] VSS unitsource2u
xsrc1[25] VDD Vpbias[1] ON[25] ONB[25] Iout Vpcbias[1] VSS unitsource2u
xsrc1[24] VDD Vpbias[1] ON[24] ONB[24] Iout Vpcbias[1] VSS unitsource2u
xsrc1[23] VDD Vpbias[1] ON[23] ONB[23] Iout Vpcbias[1] VSS unitsource2u
xsrc1[22] VDD Vpbias[1] ON[22] ONB[22] Iout Vpcbias[1] VSS unitsource2u
xsrc1[21] VDD Vpbias[1] ON[21] ONB[21] Iout Vpcbias[1] VSS unitsource2u
xsrc1[20] VDD Vpbias[1] ON[20] ONB[20] Iout Vpcbias[1] VSS unitsource2u
xsrc1[19] VDD Vpbias[1] ON[19] ONB[19] Iout Vpcbias[1] VSS unitsource2u
xsrc1[18] VDD Vpbias[1] ON[18] ONB[18] Iout Vpcbias[1] VSS unitsource2u
xsrc1[17] VDD Vpbias[1] ON[17] ONB[17] Iout Vpcbias[1] VSS unitsource2u
xsrc1[16] VDD Vpbias[1] ON[16] ONB[16] Iout Vpcbias[1] VSS unitsource2u
* tap: EN[3:0] --> EN[1:0]
* tap: ENB[3:0] --> ENB[1:0]
* tap: ENB[3:0] --> ENB[3:2]
* tap: EN[3:0] --> EN[3:2]
* tap: ON[31:0] --> ON[15:0]
* tap: ONB[31:0] --> ONB[15:0]
* tap: ON[31:0] --> ON[31:16]
* tap: ONB[31:0] --> ONB[31:16]
* tap: Vpbias[1:0] --> Vpbias[0]
* tap: Vpcbias[1:0] --> Vpcbias[0]
* tap: Vpbias[1:0] --> Vpbias[1]
* tap: Vpcbias[1:0] --> Vpcbias[1]
.ends


* expanding   symbol:  analog_wires.sym # of pins=3
** sym_path: /home/cmaier/EDA/PUDDING/xschem/analog_wires.sym
** sch_path: /home/cmaier/EDA/PUDDING/xschem/analog_wires.sch
.subckt analog_wires vdda pbias pcbias
*.iopin vdda
*.iopin pcbias
*.iopin pbias
XMcbuffer vdda pcbias vdda vdda sg13_hv_pmos w=8u l=8u ng=1 m=19
XMbbuffer vdda pbias vdda vdda sg13_hv_pmos w=8u l=8u ng=1 m=19
.ends


* expanding   symbol:  inverterpair.sym # of pins=5
** sym_path: /home/cmaier/EDA/PUDDING/xschem/inverterpair.sym
** sch_path: /home/cmaier/EDA/PUDDING/xschem/inverterpair.sch
.subckt inverterpair VDD OUTP IN OUTN VSS
*.iopin VSS
*.ipin IN
*.opin OUTN
*.opin OUTP
*.iopin VDD
xinv2 OUTP OUTN VDD VSS sg13g2_inv_1
xinv1 OUTN IN VDD VSS sg13g2_inv_1
.ends


* expanding   symbol:  unitsource2u.sym # of pins=7
** sym_path: /home/cmaier/EDA/PUDDING/xschem/unitsource2u.sym
** sch_path: /home/cmaier/EDA/PUDDING/xschem/unitsource2u.sch
.subckt unitsource2u VDD VbiasP ON ONB Iout VcascP VSS
*.iopin VSS
*.iopin VDD
*.iopin VbiasP
*.iopin VcascP
*.ipin ON
*.ipin ONB
*.iopin Iout
xnonoverlap VDD VSS ON ONB on_n off_n nonoverlap
xsw VDD off_n Vcasc on_n VcascP cascodeswitch_pmos
xsrc VDD VbiasP Vcasc Iout pcsource2u
.ends


* expanding   symbol:  nonoverlap.sym # of pins=6
** sym_path: /home/cmaier/EDA/PUDDING/xschem/nonoverlap.sym
** sch_path: /home/cmaier/EDA/PUDDING/xschem/nonoverlap.sch
.subckt nonoverlap VDD VSS INP INN OUTN OUTP
*.iopin VSS
*.iopin VDD
*.ipin INP
*.ipin INN
*.opin OUTP
*.opin OUTN
XM1 OUTN INP VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
XM2 OUTP INN VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
XM3 OUTN OUTP VSS VSS sg13_lv_nmos w=0.15u l=0.52u ng=1 m=1
XM4 OUTP OUTN VSS VSS sg13_lv_nmos w=0.15u l=0.52u ng=1 m=1
.ends


* expanding   symbol:  cascodeswitch_pmos.sym # of pins=5
** sym_path: /home/cmaier/EDA/PUDDING/xschem/cascodeswitch_pmos.sym
** sch_path: /home/cmaier/EDA/PUDDING/xschem/cascodeswitch_pmos.sch
.subckt cascodeswitch_pmos VDD off_n Vcasc on_n Vbpcasc
*.ipin off_n
*.ipin Vbpcasc
*.opin Vcasc
*.ipin on_n
*.ipin VDD
XMpullup Vcasc off_n VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
XMbias Vbpcasc on_n Vcasc VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  pcsource2u.sym # of pins=4
** sym_path: /home/cmaier/EDA/PUDDING/xschem/pcsource2u.sym
** sch_path: /home/cmaier/EDA/PUDDING/xschem/pcsource2u.sch
.subckt pcsource2u VDD VbiasP VcascodeP Iout
*.ipin VcascodeP
*.ipin VbiasP
*.opin Iout
*.ipin VDD
XMsrc drain net4 VDD net1 sg13_lv_pmos w=1.45u l=5u ng=1 m=1
XMcasc Iout net3 drain net2 sg13_lv_pmos w=1.2u l=0.6u ng=1 m=1
Vgsrc net4 VbiasP 0
.save i(vgsrc)
Vgcasc net3 VcascodeP 0
.save i(vgcasc)
Vbsrc VDD net1 0
.save i(vbsrc)
Vbcasc VDD net2 0
.save i(vbcasc)
.ends

.GLOBAL GND
.end
